US06297196B1
Step 3: 6-Bromo-5,8-dimethyl-4-thiochromanone
66.5 g (0.35 mol) of 5,8-dimethyl-4-thiochromanone, together with 118 g (0.87 mol) of aluminum chloride, were dissolved or suspended in 600 ml of methylene chloride. After 15 min of stirring, 62.2 g (0.39 mol) of bromine were slowly added dropwise, and the reaction mixture was subsequently boiled under reflux for 10 min. The reaction mixture, which was still warm, was poured into 220 ml of conc. hydrochloric acid in crushed ice. The mixture was stirred for 10 min, the methylene chloride phase was separated off and the aqueous phase was extracted with diethyl ether (3×400 ml). The combined organic phases were washed with water, dried over MgSO4 and concentrated using a rotary evaporator.

reactant | 5,8-dimethyl-4-thiochromanone | 0.35 mol, 66.5 g | CC1=C2C(CCSC2=C(C=C1)C)=O | C11H12OS
reactant | aluminum chloride | 0.87 mol, 118 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | bromine | 0.39 mol, 62.2 g | BrBr | Br2
reactant | hydrochloric acid | 220 ml | Cl | ClH
solvent | methylene chloride | 600 ml | C(Cl)Cl | CH2Cl2
product | 6-Bromo-5,8-dimethyl-4-thiochromanone | BrC=1C(=C2C(CCSC2=C(C1)C)=O)C | C11H11BrOS
